US07772238B2
To a solution of 5-iodo-benzo[b]thiophene-2-carboxylic acid ethyl ester (14.09 g, 42.42 mmol) at 40° C. was slowly added a solution of isopropylmagnesium bromide (0.7 M in THF, 85 mL, 59.5 mmol). The mixture was allowed to stir at 40° C. for 2 h and N-methyl-N-pyridin-2-yl-formamide (7.65 mL, 63.9 mmol) was added slowly. After warming to rt, the mixture was allowed to stir for additional 2.5 h. To the mixture was carefully added 250 mL of 1N HCl. After stirring for 10 min, the reaction mixture was diluted with CH2Cl2 (800 mL). The organic layer was separated, washed with 200 mL of saturated NaHCO3 and dried over Na2SO4. After filtration, the filtrate was concentrated and the residue was recrystallized from MeOH to give 5-formyl-benzo[b]thiophene-2-carboxylic acid ethyl ester as a yellow solid. 1H NMR (CDCl3, 200 MHz) δ 10.12 (s, 1H), 8.37 (s, 1H), 8.18 (s, 1H), 8.08-7.90 (m, 2H), 4.44 (q, J=7.2 Hz, 2H), 1.44 (t, J=7.4 Hz, 3H). MS (EI): cal'd 235.0 (MH+), exp 235.1 (MH+).

reactant | 5-iodo-benzo[b]thiophene-2-carboxylic acid ethyl ester | 42.42 mmol, 14.09 g | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)I | C11H9IO2S
reactant | isopropylmagnesium bromide | 59.5 mmol, 0.7 M, 85 mL | C(C)(C)[Mg]Br
reactant | N-methyl-N-pyridin-2-yl-formamide | 63.9 mmol, 7.65 mL | CN(C=O)C1=NC=CC=C1 | C7H8N2O
reactant | HCl | 1N, 250 mL | Cl | ClH
solvent | CH2Cl2 | 800 mL | C(Cl)Cl | CH2Cl2
product | 5-formyl-benzo[b]thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)C=O | C12H10O3S
